US05223498
A solution of delta-valerolactam (24 g) in dry benzene (100 ml) was cooled to 10° C. in ice-water and treated with freshly distilled phosphorus oxychloride (22.2 ml) under nitrogen over a period of 10-15 minutes. The initial white solid formed changed to a clear yellow oil over 3 hours. A solution of 4-(2-aminophenyl)morpholine (36 g) in dry benzene (150 ml) was added and the mixture heated at 65° C. with stirring for 32 hours. The benzene layer was decanted, the oil washed twice with benzene (2×40 ml), ether (100 ml) was added and the mixture cooled in ice treated with 10% aqueous sodium hydroxide solution to alkaline pH, with stirring. The aqueous layer was extracted with ether (2×100 ml) and the combined ether extracts washed with water, brine and dried. The solution was filtered and the solvent removed to give a thick oil which solidified on trituration with hexane. The crude solid was crystallised from hot hexane to yield 4-[ 2-(2-piperidinylideneamino)phenyl]morpholine (m.p. 89°-90° C.).

reactant | delta-valerolactam | 24 g | C1(CCCCN1)=O | C5H9NO
reactant | phosphorus oxychloride | 22.2 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 4-(2-aminophenyl)morpholine | 36 g | NC1=C(C=CC=C1)N1CCOCC1 | C10H14N2O
reactant | hexane | CCCCCC | C6H14
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 150 ml | C1=CC=CC=C1 | C6H6
product | 4-[ 2-(2-piperidinylideneamino)phenyl]morpholine | N1C(CCCC1)=NC1=C(C=CC=C1)N1CCOCC1 | C15H21N3O
